US04021479
4-(4'-Amino-3'-bromo-4-biphenylyl)-butyric acid by method A
A mixture of 6 ml of water, 8 gm of amalgamated zinc, 14 ml of concentrated hydrochloric acid, 20 ml of toluene and 4 gm of 4-(4'-amino-3'-bromo-4-biphenylyl)-4-oxo-butyric acid was refluxed for 6 hours, while stirring. Subsequently, 10 ml of dioxane were added and the toluene/dioxane phase was separated. The residue remaining after evaporation of the solvent was admixed with water, covered with ether, and adjusted with sodium bicarbonate solution to pH 6. The ether solution was separated, washed with water, dried over sodium sulfate and evaporated. The thus obtained 4-(4'-amino-3'-bromo-4-biphenylyl)-butyric acid was dissolved in ethyl acetate and converted into its cyclohexylamine salt by addition of cyclohexylamine. Yield: 25% of theory. Melting point of the cyclohexylamine salt: 182° C. (decomp.).

reactant | water | 6 ml | O | H2O
reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(4'-amino-3'-bromo-4-biphenylyl)-4-oxo-butyric acid | 4 gm | NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O)Br | C16H14BrNO3
catalyst | zinc | 8 gm | [Zn] | Zn
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(4'-Amino-3'-bromo-4-biphenylyl)-butyric acid | Yield: 25% | NC1=C(C=C(C=C1)C1=CC=C(C=C1)CCCC(=O)O)Br | C16H16BrNO2
